US07893058B2
Step 2: (5-Bromo-imidazo[1,2-a]pyrazin-8-yl)-[4-(2-morpholin-4-yl-ethoxy)-phenyl]-amine
In the same way as described in the general procedure for amine displacement using 4-(2-morpholin-4-yl-ethoxy)-phenylamine (600 mg, 2.7 mmol), N,N-diisopropylethylamine (0.470 mL, 2.7 mmol) and a solution of 5,8-dibromo-imidazo[1,2-a]pyrazine (0.500 g, 1.80 mmol) in isopropanol (6 mL). Purification by silica gel column chromatography eluting with a mixture 97:3 DCM:MeOH affords the title compound as a pale yellow solid (0650 mg, 86%). 1H-NMR (400 MHz, CDCl3) δ (ppm) 2.51-2.62 (4H, m), 2.75-2.83 (2H, t), 3.71-3.78 (4H, m), 4.09-4.18 (2H, m), 6.90 (2H, d), 7.51 (1H, s), 7.61 (1H, s), 7.64 (2H, d), 7.70 (1H, s), 7.90 (1H, s). LCMS: Rt 2.09 min (97%).

reactant | 4-(2-morpholin-4-yl-ethoxy)-phenylamine | 2.7 mmol, 600 mg | N1(CCOCC1)CCOC1=CC=C(C=C1)N | C12H18N2O2
reactant | N,N-diisopropylethylamine | 2.7 mmol, 0.470 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 5,8-dibromo-imidazo[1,2-a]pyrazine | 1.80 mmol, 0.500 g | BrC1=CN=C(C=2N1C=CN2)Br | C6H3Br2N3
solvent | isopropanol | 6 mL | C(C)(C)O | C3H8O
product | (5-Bromo-imidazo[1,2-a]pyrazin-8-yl)-[4-(2-morpholin-4-yl-ethoxy)-phenyl]-amine | 86% | BrC1=CN=C(C=2N1C=CN2)NC2=CC=C(C=C2)OCCN2CCOCC2 | C18H20BrN5O2
